US07355052B2
Stage 4: 2-(3-chloro-4-nitrophenyl)-N,N-diisobutyl-2-methylpropanamide
Thionyl chloride (0.54 ml, 4 eq) is added to a solution of 2-(3-chloro-4-nitrophenyl)-2-methylpropanoic acid (500 mg) in dichloromethane (1 ml). The mixture is heated under reflux for 16 hours then cooled down to ambient temperature. The solvent is evaporated off under reduced pressure at 40° C. (co-evaporation with toluene). Diisopropylethylamine (0.42 ml, 1.2 eq) and diisobutylamine (0.36 ml, 1 eq) are successively added to a solution of the acid chloride thus obtained in dichloromethane (1 ml), cooled down to 0° C. At the end of the addition, stirring is continued for 3 hours at ambient temperature then the mixture is concentrated under reduced pressure at 40° C. The residue is dissolved in ethyl ether and the organic phase is washed successively with 1N soda, a saturated solution of sodium hydrogen carbonate, salt water then dried over Na2SO4 and concentrated under reduced pressure at 40° C. Purification by flash chromatography on silica gel (eluent: heptane/ethyl acetate 8:2 to 7:3) produces the expected compound in the form of an oil which crystallizes (0.585 g; 82% yield).

reactant | Thionyl chloride | 0.54 ml, 4 eq | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(3-chloro-4-nitrophenyl)-2-methylpropanoic acid | 500 mg | ClC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)O)(C)C | C10H10ClNO4
reactant | Diisopropylethylamine | 0.42 ml, 1.2 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diisobutylamine | 0.36 ml, 1 eq | C(C(C)C)NCC(C)C | C8H19N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 2-(3-chloro-4-nitrophenyl)-N,N-diisobutyl-2-methylpropanamide | 82% yield | ClC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)N(CC(C)C)CC(C)C)(C)C | C18H27ClN2O3
